US06756378B2
To a stirred solution of methyl 4-[trans-1-tert-butoxycarbonyl-4-(N-methyl-trifluoro acetoamido)-(2S)-pyrrolidinyl]methoxybenzoate (390 mg, 0.85 mmol) in CH2Cl2 (8.0 ml) was added TFA (5.0 ml) at 0° C. The reaction mixture was stirred at room temperature for 0.5 hr. The mixture was concentrated in vacuo. Sat. NaHCO3 was added to the residue, and extracted with CH2Cl2. The extract was washed with brine, dried over Na2SO4, and concentrated in vacuo. The crude product was used to the subsequent reaction without further purification. To a stirred solution of the crude product, 3-methoxy-4-[N′-(2-methylphenyl)uredio]phenylacetic acid (279 mg, 0.89 mmol), HOBt (143 mg, 1.1 mmol), and triethylamine (246 ml, 1.77 mmol) in THF (8.0 ml) and MeCN (8.0 ml) was added EDC.HCl (255 mg, 1.3 mmol) at 0° C. The reaction mixture was stirred at room temperature for 16 hr, and concentrated in vacuo. Water was added to the residue, and extracted with EtOAc. The extract was washed with sat. NaHCO3, 2-M citric acid, and sat. NaHCO3, then dried over Na2SO4, and concentrated in vacuo. The residue was purified by column chromatography on silica gel with EtOAc-n-hexane (4:1, v/v) as eluent to give methyl 4-[trans-1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-4-(N-methyl-trifluoroacetoamido)-(2S) -pyrrolidinyl]methoxybenzoate (480 mg, 82%) as a colorless oil. 1H-NMR (CDCl3) δ2.18-2.35 (m, 2H), 2.31 (s, 3H), 2.87 and 2.97 (each s, total 3H), 3.45-3.46 (m, 3H), 3.47 (s, 3H), 3.49 (s, 2H), 3.88 (s, 3H), 4.30-4.70 (m, 2H), 5.20-5.40 (m, 1H), 6.38-6.43 (m, 1H), 6.67-6.86 (m, 4H), 7.09-724 (m, 4H), 7.51-7.54 (m, 1H), 7.93-8.08 (m, 3H).

reactant | methyl 4-[trans-1-tert-butoxycarbonyl-4-(N-methyl-trifluoro acetoamido)-(2S)-pyrrolidinyl]methoxybenzoate | 0.85 mmol, 390 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)N(C(C(F)(F)F)=O)C)COC1=CC=C(C(=O)OC)C=C1 | C21H27F3N2O6
reactant | TFA | 5.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HOBt | 1.1 mmol, 143 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 1.77 mmol, 246 ml | C(C)N(CC)CC | C6H15N
reactant | EDC.HCl | 1.3 mmol, 255 mg | CCN=C=NCCCN(C)C.Cl
reactant | THF | 8.0 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 8.0 ml | C(Cl)Cl | CH2Cl2
solvent | MeCN | 8.0 ml | CC#N | C2H3N
product | methyl 4-[trans-1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-4-(N-methyl-trifluoroacetoamido)-(2S) -pyrrolidinyl]methoxybenzoate | 480 mg, 82% | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)N1[C@@H](C[C@H](C1)N(C(C(F)(F)F)=O)C)COC1=CC=C(C(=O)OC)C=C1 | C33H35F3N4O7
